US06166006
A solution of 4-(4'-methyl-α-methylbenzylideneaminoxy)benzaldehyde (5.0 g) in 1N hydrochloric acid/acetic acid (80 ml) was stirred at 100-110° C. for 24 hours and then cooled to room temperature. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:9) to give colorless crystals of 2-(4-methylphenyl)benzofuran-5-aldehyde (1.50 g).

reactant | 4-(4'-methyl-α-methylbenzylideneaminoxy)benzaldehyde | 5.0 g | CC1=CC=C(C(C)=NOC2=CC=C(C=O)C=C2)C=C1 | C16H15NO2
reactant | water | O | H2O
reactant | hydrochloric acid acetic acid | 1N, 80 ml | Cl.C(C)(=O)O
product | 2-(4-methylphenyl)benzofuran-5-aldehyde | 1.50 g | CC1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H12O2
